US04673739
1.62 g of (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidine-sulfonic acid-sodium salt in 180 ml of acetone-water (2:1) are stirred with 3.87 g of (Z)-2-(2-amino-4-thiazolyl)-2-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]-acetic acid 2-benzthiazolyl-thioester at room temperature for 15 hours. After removal of the acetone in vacuo and the addition of 50 ml of water, crystals are obtained which are washed with water. The mother liquor is evaporated under reduced pressure at 37° C. and chromatographed (MCI Gel, water as eluting agent). After lyophilization (3S,4S)-3-[(2-amino-4-thiazolyl)-2-(Z)-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]-acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulfonic acid-sodium salt is obtained.

reactant | (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidine-sulfonic acid sodium | 1.62 g | N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O.[Na]
reactant | (Z)-2-(2-amino-4-thiazolyl)-2-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]-acetic acid 2-benzthiazolyl-thioester | 3.87 g | S1C(=NC2=C1C=CC=C2)SOC(\C(=N/OC(C)(C)C(=O)OC(C)(C)C)\C=2N=C(SC2)N)=O | C20H22N4O5S3
solvent | acetone water | 180 ml | CC(=O)C.O
product | (3S,4S)-3-[(2-amino-4-thiazolyl)-2-(Z)-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]-acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulfonic acid sodium | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O)=N/OC(C)(C)C(=O)OC(C)(C)C.[Na] | InChI=1S/C18H26N6O10S2.Na/c1-17(2,3)33-14(27)18(4,5)34-23-10(8-7-35-15(19)21-8)12(25)22-11-9(6-32-16(20)28)24(13(11)26)36(29,30)31;/h7,9,11H,6H2,1-5H3,(H2,19,21)(H2,20,28)(H,22,25)(H,29,30,31);/b23-10-;/t9-,11+;/m1./s1
